US08791107B2
2-(1H-indazol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 75 mg, 0.190 mmol), 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-1-yl)ethanone (109 mg, 0.381 mmol) and PdCl2(dppf) (6.97 mg, 9.52 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.18-3.38 (m, 5H), 3.88-4.05 (m, 3H), 4.09-4.19 (m, 2H), 4.73 (m, 4H), 7.49 (s, 1H), 7.56 (s, 1H), 7.65 (d, J=8.34 Hz, 2H), 7.72 (s, 1H), 7.84 (d, J=7.33 Hz, 1H), 7.94 (d, J=8.34 Hz, 2H), 8.61 (s, 1H), 13.00-13.68 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C24H24N6O3S, 477.16. found 477.4.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.190 mmol, 75 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-1-yl)ethanone | 0.381 mmol, 109 mg | CC1(OB(OC1(C)C)C1=C2C=NN(C2=CC=C1)C(C)=O)C | C15H19BN2O3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 9.52 μmol, 6.97 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1H-indazol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | N1N=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C24H24N6O3S
